US08008350B2
i) 4-bromo-3-chlorophenyl phenyl sulfone
The subtitle compound was prepared by the method of example 9 step (i) using 4-bromo-3-chlorobenzenesulfonyl chloride and benzene.

reactant | 4-bromo-3-chlorobenzenesulfonyl chloride | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)Cl | C6H3BrCl2O2S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-bromo-3-chlorophenyl phenyl sulfone | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)Br)Cl | C12H8BrClO2S
